US04116949
The polymer of either Examples I and II were reduced by treating a solution of 2 g of the polymer in 0.5 M NaHCO3 (50 ml) with 5% (w/v) sodium dithionite at 50° C for 1 hour. A copolypeptide, as in Example III, containing either glutamic acid or hydroxypropylglutamine and p-aminophenylalanine was obtained, following purification of the low molecular weight material by gel chromatography or dialysis.

reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | hydroxypropylglutamine | OCCCN[C@@H](CCC(N)=O)C(=O)O | C8H16N2O4
solvent | NaHCO3 | 0.5 M, 50 ml | C(=O)(O)[O-].[Na+]
product | p-aminophenylalanine | NC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H12N2O2
